US06242422B1
(3RS)-3-[N-((2-Phenylphenoxy)Acetyl)Leucinyl]Amino-5-Fluoro-4-Oxopentanoic Acid
Starting with (3RS,4RS)-3-(leucinyl)amino-5-fluoro-4-hydroxypentanoic acid, tert-butyl ester, p-toluenesulfonate salt and following the methods described in Example 53, Parts C through E utilizing (2-phenylphenoxy)acetic acid in place of (1-naphthyloxy)acetic acid in Part C, gave the title compound as a white solid. MS(ES) for C25H29FN2O6 (MW 472.51): positive 495(M+Na), 511(M+K); negative 471(M−H), 585(M+TFA).

reactant | (3RS,4RS)-3-(leucinyl)amino-5-fluoro-4-hydroxypentanoic acid, tert-butyl ester, p-toluenesulfonate salt | C1(=CC=C(C=C1)S(=O)(=O)O)C.N[C@@H](CC(C)C)C(=O)NC(CC(=O)OC(C)(C)C)C(CF)O
reactant | (2-phenylphenoxy)acetic acid | C1(=CC=CC=C1)C1=C(OCC(=O)O)C=CC=C1 | C14H12O3
product | (3RS)-3-[N-((2-Phenylphenoxy)Acetyl)Leucinyl]Amino-5-Fluoro-4-Oxopentanoic Acid | C1(=CC=CC=C1)C1=C(OCC(=O)N[C@@H](CC(C)C)C(=O)NC(CC(=O)O)C(CF)=O)C=CC=C1 | C25H29FN2O6
